US07951824B2
Step 1: 4-(3,5-Difluoro-phenyl)-2,6-dimethyl-pyrimidine
To a suspension of 8.0 g, (43 mmol) of 4-Bromo-2,6-dimethyl-pyrimidine [CAS 354574-56-4], 8.1 g (51 mmol, 1.2 equiv.) of 3,5-Difluorophenylboronic acid, an 1.917 g (33.0 mmol, 3.3 equiv.) of KF in 80 ml of DME were added 20 ml of 2M sodium carbonate solution and the mixture was purged with Argon for 10 min. Then 2.24 g (8.6 mmol, 0.2 equiv.) of Triphenylphosphine and 0.96 g (4.3 mmol, 0.1 equiv.) of Palladium acetate were added and the mixture was stirred under Argon atmosphere for 18 h at 85° C. The reaction was allowed to cool to r.t., and worked up with ethyl acetate/water. The crude material was purified by flash chromatography on silicagel (heptane/ethyl acetate 1:1) to yield the title compound (1.96 g, 21%) as a red solid, MS (ISP): m/e=221.2 (M+H)+.

reactant | 4-Bromo-2,6-dimethyl-pyrimidine | 43 mmol | BrC1=NC(=NC(=C1)C)C | C6H7BrN2
reactant | 3,5-Difluorophenylboronic acid | 51 mmol, 8.1 g, 1.2 equiv. | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | KF | 33.0 mmol, 1.917 g, 3.3 equiv. | [F-].[K+]
reactant | sodium carbonate | 2M, 20 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | Triphenylphosphine | 8.6 mmol, 2.24 g, 0.2 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DME | 80 ml | COCCOC | C4H10O2
catalyst | Palladium acetate | 4.3 mmol, 0.96 g, 0.1 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate water | C(C)(=O)OCC.O
product | 4-(3,5-Difluoro-phenyl)-2,6-dimethyl-pyrimidine | 1.96 g, 21% | FC=1C=C(C=C(C1)F)C1=NC(=NC(=C1)C)C | C12H10F2N2
